US06458798B1
(4-2) 4-Chloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-2-ylamine
By reacting 2-amino-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-4-ol (562 mg, 3.36 mmol) and phosphorous oxychloride (3 ml), there was obtained the object compound (136 mg, 22%).

reactant | 2-amino-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-4-ol | 3.36 mmol, 562 mg | NC=1N=C(C2=C(N1)CCOC2)O | C7H9N3O2
reactant | phosphorous oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-2-ylamine | 136 mg, 22% | ClC=1C2=C(N=C(N1)N)CCOC2 | C7H8ClN3O
